US07056932B2
To a stirred, cooled (0° C.) solution (RS)-(3-amino-2-oxo-2H-pyridin-1-yl)-ethoxy-acetic acid ethyl ester (428 mg) and 2,4,6-collidine (0.47 ml) in THF (3 ml) under an argon atmosphere was added dropwise a solution of alpha-toluenesulphonylchloride (340 mg) in THF (2 ml) over 10 min. When addition was complete, stirring at 0° C. was continued for 2 h. The mixture was diluted with EtOAc, washed with 1.0 N HCl and brine, dried (MgSO4), filtered and concentrated to give (RS)-ethoxy-(2-oxo-3-phenylmethanesulfonylamino-2H-pyridin-1-yl)-acetic acid ethyl ester (592 mg) as light brown solid. MS 393.0 ([M−H]−)

reactant | (RS)-(3-amino-2-oxo-2H-pyridin-1-yl)-ethoxy-acetic acid ethyl ester | 428 mg | C(C)OC(C(OCC)N1C(C(=CC=C1)N)=O)=O | C11H16N2O4
reactant | 2,4,6-collidine | 0.47 ml | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | alpha-toluenesulphonylchloride | 340 mg | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (RS)-ethoxy-(2-oxo-3-phenylmethanesulfonylamino-2H-pyridin-1-yl)-acetic acid ethyl ester | 592 mg | C(C)OC(C(N1C(C(=CC=C1)NS(=O)(=O)CC1=CC=CC=C1)=O)OCC)=O | C18H22N2O6S
